US08604024B2
This material was prepared as reported in J. Molecular Catalysis A, 2007, 30-33. Commercial 3-fluoro-2-hydroxybenzaldehyde (0.280 g, 2 mmol) was dissolved in MeCN (10 mL, 191 mmol) and ammonium acetate (0.015 g, 0.200 mmol) and NBS (0.392 g, 2.200 mmol) were added at rt. The mixture was stirred at rt for 1 h. The reaction mixture was then concentrated and the crude compound was dissolved in a small amount of dichloromethane and charged to a 12 g silica gel cartridge which was eluted with a 25 min gradient of from 0% to 30% ethyl acetate in hexanes at 30 mL/min. Fractions containing product were pooled and concentrated in vacuo to give 5-bromo-3-fluoro-2-hydroxybenzaldehyde (0.43 g, 1.963 mmol, 98% yield). 1H NMR (400 MHz, chloroform-d) δ ppm 10.89 (s, 1H) 9.87 (s, 1H) 7.39-7.65 (m, 2H).

reactant | 3-fluoro-2-hydroxybenzaldehyde | 2 mmol, 0.280 g | FC=1C(=C(C=O)C=CC1)O | C7H5FO2
reactant | MeCN | 191 mmol, 10 mL | CC#N | C2H3N
reactant | ammonium acetate | 0.200 mmol, 0.015 g | C(C)(=O)[O-].[NH4+]
reactant | NBS | 2.200 mmol, 0.392 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
product | 5-bromo-3-fluoro-2-hydroxybenzaldehyde | 1.963 mmol, 0.43 g, 98% yield | BrC=1C=C(C(=C(C=O)C1)O)F | C7H4BrFO2
